US08217168B2
6-phenyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione hydrochloride (E15)
6-phenyl-2-(3-{(1S)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione (9 mg 0.019 mmol) was diluted in diethyl ether (1 ml) and hydrochloric acid 1M in Et2O (0.022 ml, 0.022 mmol) under nitrogen atmosphere. Solvent was removed and the residue triturated in Et2O (2×1 mL), obtaining 3.2 mg of title compound as a white solid (27% yield).

reactant | 6-phenyl-2-(3-{(1S)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.019 mmol, 9 mg | C1(=CC=CC=C1)C=1C(NC(N(N1)CCCN1C[C@]2(CC2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C24H23F3N4O2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | Et2O | 0.022 mmol, 0.022 ml | CCOCC | C4H10O
product | 6-phenyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione hydrochloride | 3.2 mg, 27% yield | Cl.C1(=CC=CC=C1)C=1C(NC(N(N1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H23F3N4O2.ClH/c25-24(26,27)18-9-7-17(8-10-18)23-13-19(23)14-30(15-23)11-4-12-31-22(33)28-21(32)20(29-31)16-5-2-1-3-6-16;/h1-3,5-10,19H,4,11-15H2,(H,28,32,33);1H/t19-,23+;/m0./s1
